US07501412B2
α-Acetyl-4-fluorophenylacetonitrile (65.1 g) and methylhydrazine (30.9 mL) were dissolved in ethanol (320 mL), and the mixture was heated under reflux for 3 hrs. After the completion of the reaction, the reaction mixture was cooled to room temperature, and the solvent was evaporated. The obtained solid was collected by filtration and washed with hexane to give 5-amino-4-(4-fluorophenyl)-1,3-dimethylpyrazole (69.5 g).

reactant | α-Acetyl-4-fluorophenylacetonitrile | 65.1 g | C(C)(=O)C(C#N)C1=CC=C(C=C1)F | C10H8FNO
reactant | methylhydrazine | 30.9 mL | CNN | CH6N2
solvent | ethanol | 320 mL | C(C)O | C2H6O
product | 5-amino-4-(4-fluorophenyl)-1,3-dimethylpyrazole | 69.5 g | NC1=C(C(=NN1C)C)C1=CC=C(C=C1)F | C11H12FN3
